Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
Headache
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
___ year old male with history of hypertension, glaucoma presents 
with acute onset left-sided headache. Pain started suddenly, and 
persisted despite aspirin and ibuprofen so presented to ED.  His 
headache is associated with eye pain and temporal tenderness.  
There is no reported weakness or numbness.  There is no rash.  
Patient was referred by PCP to ___ bleed.  Patient is not on 
anticoagulation.

In the ED, initial vitals were 97.6 66 127/85 18 100% on RA.  On 
exam, there was tenderness ofver the left temple.  A slight left 
eyelid droop was noted.  Neurology exam was benign.  Labs were 
generally unremarkable.  IOP was 13.  CT head and CTA head and 
neck were unremarkable.  LP was attempted and unsuccessful.  
Neurology was consulted and recommended CTA, LP and admission to 
Medicine for expedited temporal artery biopsy.  Patient received 
prednisone 60 mg x 1, morphine sulfate 2 mg x 1, acetaminophen 
650 mg x 1, and midazolam 0.5 mg x 4 IV.  

Currently, the patient reports no headache or vision changes.  
There is no shoulder pain, chest pain or dyspnea.  He notes no 
weakness or numbness of his extremities or face. 
 
Review of systems:  
10 pt ROS negative other than noted
 
Past Medical History:
Hypertension
Glaucoma
 
Social History:
___
Family History:
Mother and father with glaucoma
Mother with ___
 
Physical Exam:
ADMISSION EXAM:
Vitals:  98.3PO 139/89 85 18 100 RA  
GEN: Alert, oriented to name, place and situation. Fatigued 
appearing but comfortable, no acute signs of distress.  
HEENT: NCAT, Pupils equal and reactive, sclerae anicteric, OP 
clear, MMM.  Minimal tenderness to palpation of left temporal 
artery.
Neck: Supple, no JVD
Lymph nodes: No cervical, supraclavicular LAD.  
CV: S1S2, reg rate and rhythm, no murmurs, rubs or gallops.  
RESP: Good air movement bilaterally, no rhonchi or wheezing.  
ABD: Soft, non-tender, non-distended, + bowel sounds.  
EXTR: No lower leg edema, no clubbing or cyanosis  
DERM: No active rash.  
Neuro: Cranial nerves ___ grossly intact, muscle strength ___ 
in all major muscle groups, sensation to light touch intact, 
non-focal.  
PSYCH: Appropriate and calm.  

DISCHARGE EXAM:
VS:  98.1PO 123/83 68 16 99 RA 
GEN: Alert, oriented to name, place and situation. Fatigued 
appearing but comfortable, no acute signs of distress.  
HEENT: NCAT, Pupils equal and reactive, sclerae anicteric, OP 
clear, MMM.  No tenderness to palpation of the temporal artery
Neck: Supple, no JVD
Lymph nodes: No cervical, supraclavicular LAD.  
CV: S1S2, reg rate and rhythm, no murmurs, rubs or gallops.  
RESP: Good air movement bilaterally, no rhonchi or wheezing.  
ABD: Soft, non-tender, non-distended, + bowel sounds.  
EXTR: No lower leg edema, no clubbing or cyanosis  
DERM: No active rash.  
Neuro: Cranial nerves ___ grossly intact, muscle strength ___ 
in all major muscle groups, sensation to light touch intact, 
non-focal.  
PSYCH: Appropriate and calm. 
 
Pertinent Results:
ADMISSION LABS:
___ 04:13PM BLOOD WBC-6.3 RBC-4.80 Hgb-14.0 Hct-42.6 MCV-89 
MCH-29.2 MCHC-32.9 RDW-14.4 RDWSD-45.5 Plt ___
___ 04:13PM BLOOD Neuts-55.4 ___ Monos-7.3 Eos-3.8 
Baso-0.3 Im ___ AbsNeut-3.48 AbsLymp-2.07 AbsMono-0.46 
AbsEos-0.24 AbsBaso-0.02
___ 04:13PM BLOOD ___ PTT-29.0 ___
___ 04:13PM BLOOD Glucose-108* UreaN-23* Creat-1.0 Na-136 
K-7.0* Cl-105 HCO3-24 AnGap-14
___ 04:55PM BLOOD Calcium-9.6 Phos-2.3* Mg-2.1
___ 05:39PM BLOOD K-4.5
___ 04:55PM BLOOD SED RATE-Test 

IMAGING:     
CT head w/o contrast:
No acute intracranial process.

CTA head/neck:
1. Normal head and neck CTA. 
2. Enlarged mediastinal and right hilar lymph nodes, 
indeterminate, likely 
reactive in etiology.  Further evaluation with dedicated imaging 
can be 
performed as clinically indicated. 
3. Enlarged right submandibular lymph node measuring 2.2 cm, 
indeterminate, 
likely reactive in etiology.  However, neoplasm is not excluded. 

  
RECOMMENDATION(S):  Prominent mediastinal lymph nodes, 
indeterminate, likely reactive in etiology.  Further evaluation 
with dedicated imaging can be performed as clinically indicated. 


Temporal artery ultrasound ___:
No evidence of left temporal arteritis by duplex criteria.

MRI head w/o contrast ___:
1.  There is no evidence of acute intracranial process, 
specifically there is no evidence of intracranial hemorrhage. 
  
2.  Few scattered foci of high signal intensity identified in 
the subcortical white matter are nonspecific and may reflect 
changes due to small vessel disease. 

DISCHARGE LABS:
___ 07:35AM BLOOD WBC-11.2* RBC-4.84 Hgb-13.9 Hct-42.9 
MCV-89 MCH-28.7 MCHC-32.4 RDW-14.3 RDWSD-45.5 Plt ___
___ 07:35AM BLOOD ___ PTT-25.6 ___
___ 07:35AM BLOOD Glucose-105* UreaN-26* Creat-0.9 Na-141 
K-3.5 Cl-105 HCO___ AnGap-14
___ 07:35AM BLOOD ASA-NEG Ethanol-NEG Acetmnp-NEG 
Bnzodzp-NEG Barbitr-NEG Tricycl-NEG
___ 01:08PM URINE bnzodzp-NEG barbitr-NEG opiates-POS* 
cocaine-NEG amphetm-NEG oxycodn-NEG mthdone-NEG
 
Brief Hospital Course:
___ year old male with hypertension and glaucoma presents with 
acute headache.
  
# Headache: acute, sudden, CTA and CT negative for bleed or 
other etiology.  LP unsuccessful in ED, and ultimately deemed 
unnecessary by Neurology team.  ESR 2.  Patient had temporal 
artery tenderness on admission, no vision changes.  He was 
placed on high-dose prednisone on admission for possible 
temporal arteritis.  Headache resolved upon arrival to the 
medical floor.  No reported history of substance abuse, 
toxicology screen negative.  Neurology and Rheumatology 
evaluated him.  Temporal artery ultrasound showed no evidence of 
temporal arteritis.  Temporal artery biopsy was planned, but he 
could not be fit on the schedule during admission, and is 
tentatively scheduled for ___.  MRI head w/o contrast 
showed ...  He was given acetaminophen for pain.  Patient will 
remain on high dose steroids until temporal artery biopsy 
results return.  He will be contacted at home with a ___ 
plan with Rheumatology.  He was instructed to return to the ED 
if he experiences another severe headache.

# Hypertension: continued home losartan and HCTZ
 
# Glaucoma: continued home meds

# Lymphadenopathy: noted on CT head/neck.  Patient states this 
has been noted before, and has not been a worry.  Will notify 
patient's PCP to handle potential ___ of this finding.
 
TRANSITION OF CARE
------------------
# ___: Patient is scheduled for temporal artery biopsy on 
___, and has been given instructions for this.  Patient 
will remain on high dose steroids until temporal artery biopsy 
results return.  He will be contacted at home with a ___ 
plan with Rheumatology.  He was instructed to call ___ if he 
experiences another severe headache.  He was also scheduled for 
PCP ___.
  
# Code status: Full  
 
 

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. losartan-hydrochlorothiazide 50-12.5 mg oral DAILY 
2. Tamsulosin 0.4 mg PO QHS 
3. Brimonidine Tartrate 0.15% Ophth. 1 DROP RIGHT EYE BID 
4. Zolpidem Tartrate 5 mg PO QHS:PRN insomnia 
5. Dorzolamide 2%/Timolol 0.5% Ophth. 1 DROP BOTH EYES BID 

 
Discharge Medications:
1. Brimonidine Tartrate 0.15% Ophth. 1 DROP RIGHT EYE BID 
2. Tamsulosin 0.4 mg PO QHS 
3. Zolpidem Tartrate 5 mg PO QHS:PRN insomnia 
4. Dorzolamide 2%/Timolol 0.5% Ophth. 1 DROP BOTH EYES BID 
5. losartan-hydrochlorothiazide 50-12.5 mg oral DAILY 
6. Latanoprost 0.005% Ophth. Soln. 1 DROP BOTH EYES QHS 
7. Acetaminophen 1000 mg PO Q8H 
8. PredniSONE 30 mg PO BID 
RX *prednisone 10 mg 3 tablet(s) by mouth twice a day Disp #*42 
Tablet Refills:*0

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Severe headache

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Mr. ___,

It was a pleasure caring for you at the ___.  You came for 
further evaluation of severe headache.  Various tests were 
performed, none of which specifically elucidated the cause of 
your headache.

It is important that you continue to take your medications as 
prescribed and follow up with the appointments listed below.
 
Followup Instructions:
___